US04684662
(b) trans-1-Acetamido-2-(2-chloro-2-cyanoethyl)cyclohexane
31 g of trans-1-acetamido-2-chloromercuriocyclohexane are suspended in 250 ml of 95% strength ethanol: 187 ml (4 equivalents) of 2-chloroacrylonitrile are added. While cooling in ice, a solution of 3 g of sodium borohydride in 50 ml of ethanol is added as rapidly as possible. After warming up to room temperature, the precipitated elemental mercury is filtered off with suction over kieselguhr, thoroughly washed with ethanol and the filtrate is evaporated. The residue is taken up in methylene chloride, washed three times with 1N sodium hydroxide solution to destroy the boric esters, dried over sodium sulfate and evaporated. 13 g of the title compound are obtained as a yellow oil.

reactant | trans-1-acetamido-2-chloromercuriocyclohexane | 31 g | C(C)(=O)N[C@H]1[C@@H](CCCC1)[Hg]Cl
reactant | 2-chloroacrylonitrile | 187 ml, 4 equivalents | ClC(C#N)=C | C3H2ClN
reactant | sodium borohydride | 3 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | trans-1-Acetamido-2-(2-chloro-2-cyanoethyl)cyclohexane | 13 g | C(C)(=O)N[C@H]1[C@@H](CCCC1)CC(C#N)Cl | C11H17ClN2O
